US08461179B1
A 0° C. solution of ethyl 6-chloro-4-(methylamino)nicotinate (4 g, 18.7 mmol) in THF (40 mL), under a N2 atmosphere, was treated portion-wise with LiAlH4 (1.4 g, 37.4 mmol), stirred for 20 min, then carefully treated with water followed by 2 N NaOH. The suspension was filtered and the filtrate was concentrated to afford (6-chloro-4-(methylamino)pyridin-3-yl)methanol (2.9 g, 91% yield), which was used in next step without purification. 1H NMR (400 MHz, DMSO-d6): δ 7.96 (s, 1H), 6.63 (s, 1H), 6.46 (s, 1H), 5.04 (s, 1H), 4.39 (m, 2H), 2.81-2.68 (m, 3H).

reactant | ethyl 6-chloro-4-(methylamino)nicotinate | 18.7 mmol, 4 g | ClC1=NC=C(C(=O)OCC)C(=C1)NC | C9H11ClN2O2
reactant | LiAlH4 | 37.4 mmol, 1.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (6-chloro-4-(methylamino)pyridin-3-yl)methanol | 2.9 g, 91% yield | ClC1=CC(=C(C=N1)CO)NC | C7H9ClN2O
